US09403835B2
Step 2: 4-(2-formyl-phenyl)-7-trifluoromethyl-[1,4]diazepane-1-carboxylic acid tert-butyl ester
A solution of 2-(5-trifluoromethyl-[1,4]diazepan-1-yl)-benzaldehyde (350 mg; 1.29 mmol; 1 eq.), di-tert-butyl dicarbonate (309 mg; 1.41 mmol; 1.1 eq.) and dimethyl-pyridin-4-yl-amine (31 mg; 0.26 mmol; 0.2 eq.) in ACN was stirred at room temperature for 2 hours then at 50° C. for 1 hour. After concentration in vacuo, purification by column chromatography (5% to 25% in heptanes) afforded the title compound (160 mg, 33%) as a colourless oil. HPLC (max plot) 97.9%; Rt 5.23 min.

reactant | 2-(5-trifluoromethyl-[1,4]diazepan-1-yl)-benzaldehyde | 1.29 mmol, 350 mg, 1 eq. | FC(C1NCCN(CC1)C1=C(C=O)C=CC=C1)(F)F | C13H15F3N2O
reactant | di-tert-butyl dicarbonate | 1.41 mmol, 309 mg, 1.1 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | dimethyl-pyridin-4-yl-amine | 0.26 mmol, 31 mg, 0.2 eq. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ACN | C(C)#N | C2H3N
product | 4-(2-formyl-phenyl)-7-trifluoromethyl-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 160 mg, 33% | C(C)(C)(C)OC(=O)N1CCN(CCC1C(F)(F)F)C1=C(C=CC=C1)C=O | C18H23F3N2O3
